US08974920B2
4-(Naphthalen-1-yl(phenyl)amino)benzaldehyde (F)
4-Bromobenzaldehyde (1.00 g, 5.40 mmol), 1-anilinonaphthalene (1.42 g, 6.48 mmol) and Pd(OAc)2 (25 mg, 0.11 mmol) and NaOtBu (623 mg, 6.48 mmol) were charged in a sealed tube. The sealed tube was deoxygenated and purged with nitrogen, and added dried o-xylene (30 mL) and tri-tert-butylphosphine (0.23 ml, 0.11 mmol). The reaction was heated to 120° C., and stirred for 48 hours. The resulting was filtered to remove metal and then concentrated under reduced pressure and the residue was purified by column chromatography (hexanes/CH2Cl2=1/1) to afford F (1.10 g, 63%) as yellow solid.

reactant | 4-Bromobenzaldehyde | 5.40 mmol, 1.00 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1-anilinonaphthalene | 6.48 mmol, 1.42 g | N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C16H13N
reactant | NaOtBu | 6.48 mmol, 623 mg | CC(C)(C)[O-].[Na+]
reactant | tri-tert-butylphosphine | 0.11 mmol, 0.23 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd(OAc)2 | 0.11 mmol, 25 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | o-xylene | 30 mL | CC=1C=CC=CC1C | C8H10
product | 4-(Naphthalen-1-yl(phenyl)amino)benzaldehyde | C1(=CC=CC2=CC=CC=C12)N(C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C23H17NO
